.title Crossbar
V0 in_0 0 -0.6250733223222497
V1 in_1 0 -1.6220767913628302
V2 in_2 0 1.1685197528794724
V3 in_3 0 -0.45703124574806003
V4 in_4 0 -0.48068546897603703
V5 in_5 0 0.02833302097046012
V6 in_6 0 -0.0769520837354162
V7 in_7 0 -1.3756702887007715
V8 in_8 0 0.6027766825457591
V9 in_9 0 0.14456863584089638
R_0_0 in_0 out_0 21.54290491703007
R_1_0 in_1 out_0 1.1719425248181474
R_2_0 in_2 out_0 1.530117177334298
R_3_0 in_3 out_0 19.41898476822461
R_4_0 in_4 out_0 4.326668516325189
R_5_0 in_5 out_0 3.396895931665257
R_6_0 in_6 out_0 1.741047088035307
R_7_0 in_7 out_0 1.2472735452921635
R_8_0 in_8 out_0 13.672290409207038
R_9_0 in_9 out_0 1.462814550310568
R_0_1 in_0 out_1 3.4145908488430634
R_1_1 in_1 out_1 16.68773551758357
R_2_1 in_2 out_1 3.1981659907420372
R_3_1 in_3 out_1 1.4420626882165257
R_4_1 in_4 out_1 14.251815841058132
R_5_1 in_5 out_1 12.651462364260816
R_6_1 in_6 out_1 1.1902854544945487
R_7_1 in_7 out_1 2.1807935983616304
R_8_1 in_8 out_1 1.1787281786028017
R_9_1 in_9 out_1 9.151672572704681
R_0_2 in_0 out_2 1.0460724718985186
R_1_2 in_1 out_2 4.001671545655683
R_2_2 in_2 out_2 1.4403151397109855
R_3_2 in_3 out_2 3.746576702016134
R_4_2 in_4 out_2 11.566998475215078
R_5_2 in_5 out_2 1.632329228997468
R_6_2 in_6 out_2 1.7620751708797713
R_7_2 in_7 out_2 7.147256151612201
R_8_2 in_8 out_2 2.4569473946804474
R_9_2 in_9 out_2 254.50181525932953
R_0_3 in_0 out_3 1.1835796521888582
R_1_3 in_1 out_3 3.938744589737965
R_2_3 in_2 out_3 27.45264892666945
R_3_3 in_3 out_3 2.01633671097707
R_4_3 in_4 out_3 1.100994050013433
R_5_3 in_5 out_3 1.0344237916407015
R_6_3 in_6 out_3 3.3362670063579443
R_7_3 in_7 out_3 1.0191731077225885
R_8_3 in_8 out_3 7.640312370564373
R_9_3 in_9 out_3 1.1762267781991327
R_0_4 in_0 out_4 1.1242213252722446
R_1_4 in_1 out_4 1.4340466784487509
R_2_4 in_2 out_4 1.2752527942812022
R_3_4 in_3 out_4 3.429377733904068
R_4_4 in_4 out_4 6.617206009669143
R_5_4 in_5 out_4 1.5134910124898262
R_6_4 in_6 out_4 2.2591021585482753
R_7_4 in_7 out_4 1.5152334503390519
R_8_4 in_8 out_4 2.5464298790486293
R_9_4 in_9 out_4 1.089598634617873
R_0_5 in_0 out_5 1.3804279726706832
R_1_5 in_1 out_5 12.683776683591196
R_2_5 in_2 out_5 1.3826727041544447
R_3_5 in_3 out_5 2.4712437403958836
R_4_5 in_4 out_5 1.5329831359560697
R_5_5 in_5 out_5 1.4579040897948836
R_6_5 in_6 out_5 1.9060665948543987
R_7_5 in_7 out_5 1.1885361178468228
R_8_5 in_8 out_5 27.943814688635833
R_9_5 in_9 out_5 6.148160036941682
R_0_6 in_0 out_6 1.385581990257859
R_1_6 in_1 out_6 1.7492462599892402
R_2_6 in_2 out_6 4.234993186777444
R_3_6 in_3 out_6 1.261870046078334
R_4_6 in_4 out_6 5.236693648179039
R_5_6 in_5 out_6 26.05744752177303
R_6_6 in_6 out_6 17.14110889154409
R_7_6 in_7 out_6 10.047625278801325
R_8_6 in_8 out_6 28.88021415622646
R_9_6 in_9 out_6 13.396167983989727
R_0_7 in_0 out_7 2.022600905128988
R_1_7 in_1 out_7 2.3276537209413837
R_2_7 in_2 out_7 1.3100391185992157
R_3_7 in_3 out_7 5.929005425220321
R_4_7 in_4 out_7 1.296326795133924
R_5_7 in_5 out_7 2.0275019690406744
R_6_7 in_6 out_7 5.991469095657167
R_7_7 in_7 out_7 1.1584965607030344
R_8_7 in_8 out_7 1.2093876531313568
R_9_7 in_9 out_7 1.9022878138895836
R_0_8 in_0 out_8 3.7816339097747087
R_1_8 in_1 out_8 1.0316769688695935
R_2_8 in_2 out_8 2.9527627082766967
R_3_8 in_3 out_8 1.1171626660121854
R_4_8 in_4 out_8 103.77801795611016
R_5_8 in_5 out_8 11.732904880600213
R_6_8 in_6 out_8 3.5487088705593206
R_7_8 in_7 out_8 1.1615277062996923
R_8_8 in_8 out_8 1.5854971556893553
R_9_8 in_9 out_8 1.1571790170344887
R_0_9 in_0 out_9 3.209235236759395
R_1_9 in_1 out_9 2.1071152859536117
R_2_9 in_2 out_9 1.4430166767691808
R_3_9 in_3 out_9 1.004284656440798
R_4_9 in_4 out_9 1.026111418303614
R_5_9 in_5 out_9 3.0644765592835936
R_6_9 in_6 out_9 1.5107676936064927
R_7_9 in_7 out_9 1.444570139808567
R_8_9 in_8 out_9 1.7762784592997272
R_9_9 in_9 out_9 1.5193453463681437
R_0_10 in_0 out_10 1.8834760683720804
R_1_10 in_1 out_10 1.4980792849375666
R_2_10 in_2 out_10 4.098614561838988
R_3_10 in_3 out_10 3.577684962802219
R_4_10 in_4 out_10 26.51909808454001
R_5_10 in_5 out_10 2.291707652903039
R_6_10 in_6 out_10 1.4574866698140798
R_7_10 in_7 out_10 2.2233917137876382
R_8_10 in_8 out_10 1.028749820339556
R_9_10 in_9 out_10 7.136663412445071
R_0_11 in_0 out_11 2.1349662348362504
R_1_11 in_1 out_11 1.0719670394333003
R_2_11 in_2 out_11 1.597293015835231
R_3_11 in_3 out_11 1.631920068969793
R_4_11 in_4 out_11 6.711977496398568
R_5_11 in_5 out_11 4.498843187288038
R_6_11 in_6 out_11 1.0014705718219938
R_7_11 in_7 out_11 1.868017526229477
R_8_11 in_8 out_11 5.9564041290307
R_9_11 in_9 out_11 2.0971324619724947
R_0_12 in_0 out_12 1.2652110420458007
R_1_12 in_1 out_12 3.5061105875504275
R_2_12 in_2 out_12 2.7221647302678473
R_3_12 in_3 out_12 3.334450490794534
R_4_12 in_4 out_12 2.363928242290321
R_5_12 in_5 out_12 1.4715982691487046
R_6_12 in_6 out_12 1.1675437389384071
R_7_12 in_7 out_12 1.2287769116266487
R_8_12 in_8 out_12 1.9288571421430367
R_9_12 in_9 out_12 1.189739545971837
R_0_13 in_0 out_13 2.8942582528182776
R_1_13 in_1 out_13 1.3183687986237071
R_2_13 in_2 out_13 1.2134870036944985
R_3_13 in_3 out_13 19.18131069577161
R_4_13 in_4 out_13 1.4067907319837514
R_5_13 in_5 out_13 1.1863755433316916
R_6_13 in_6 out_13 2.343289396886542
R_7_13 in_7 out_13 2.04025581695325
R_8_13 in_8 out_13 2.062251515301753
R_9_13 in_9 out_13 1.06457094963482
R_0_14 in_0 out_14 1.2975299001872456
R_1_14 in_1 out_14 11.990291512207971
R_2_14 in_2 out_14 3.7461744956662306
R_3_14 in_3 out_14 19.895003775439573
R_4_14 in_4 out_14 5.729371460057481
R_5_14 in_5 out_14 4.710028766986659
R_6_14 in_6 out_14 1.7941512395291184
R_7_14 in_7 out_14 3.221407834382099
R_8_14 in_8 out_14 1.907952855532592
R_9_14 in_9 out_14 2.6449103544546193
R_0_15 in_0 out_15 1.072715012988582
R_1_15 in_1 out_15 2.0644586744875055
R_2_15 in_2 out_15 1.090646677814632
R_3_15 in_3 out_15 1.2340971436850925
R_4_15 in_4 out_15 1.4409126135163302
R_5_15 in_5 out_15 1.0916593369360692
R_6_15 in_6 out_15 2.0938937860858697
R_7_15 in_7 out_15 2.1173407165005274
R_8_15 in_8 out_15 27.784137761423015
R_9_15 in_9 out_15 12.53683551978549
R0 out_0 0 0
R1 out_1 0 0
R2 out_2 0 0
R3 out_3 0 0
R4 out_4 0 0
R5 out_5 0 0
R6 out_6 0 0
R7 out_7 0 0
R8 out_8 0 0
R9 out_9 0 0
R10 out_10 0 0
R11 out_11 0 0
R12 out_12 0 0
R13 out_13 0 0
R14 out_14 0 0
R15 out_15 0 0
.options TEMP = 25C
.options TNOM = 25C
.end